US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-(2-hydroxyethyl)-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0638 g, 0.217 mmol) and 2-bromoethanol (0.035 mL, 0.494 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0541 g, 60.1%). EI-MS m/z 338(M+) Rt (1.42 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.217 mmol, 0.0638 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 2-bromoethanol | 0.494 mmol, 0.035 mL | BrCCO | C2H5BrO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-(2-hydroxyethyl)-1-azoniabicyclo[2.2.2]octane bromide | 0.0541 g, 60.1% | [Br-].OC(C12CC[N+](CC1)(CC2)CCO)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C22H28NO2.BrH/c24-18-17-23-14-11-21(12-15-23,13-16-23)22(25,19-7-3-1-4-8-19)20-9-5-2-6-10-20;/h1-10,24-25H,11-18H2;1H/q+1;/p-1
